US07262185B2
Methylpropiolate (20 g) and trimethylsilyl azide (68.6 g) were added to a pressure-resistant tube, and the mixture was stirred for 72 hours at 105° C. After allowing the mixture to be cooled to room temperature, methanol was added to the mixture, and the solvent was removed under reduced pressure, and the obtained residue was washed with diethylether/methanol to give methyl 1,2,3-triazole-4-carboxylate (22.7 g).

reactant | Methylpropiolate | 20 g | CC#CC(=O)[O-]
reactant | trimethylsilyl azide | 68.6 g | C[Si](C)(C)N=[N+]=[N-] | C3H9N3Si
reactant | methanol | CO | CH4O
product | methyl 1,2,3-triazole-4-carboxylate | 22.7 g | N1N=NC(=C1)C(=O)OC | C4H5N3O2
